US05157038
Preparation of 3-methyl-4-methylene-2-oxo-8-[3-(2-trifluoromethyl-10H-phenothiazin-10-yl)propyl]-1-oxa-3,8-diazaspiro[4,5]decane
A mixture containing 11.0 g of 3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane, 41.3 g of 3-(2-trifluoromethyl-10H-phenothiazin-10-yl)propyl chloride, 16.6 g of anhydrous potassium carbonate and 0.6 g of potassium iodide in 110 ml of methyl isobutyl ketone is refluxed under nitrogen while stirring for 6 hours. After evaporating the solvent under reduced pressure benzene and water are added to the evaporation residue, the organic phase is separated, washed with water to neutral, dried over anhydrous sodium sulfate, then the solution is evaporated under reduced pressure. The solid residue is boiled with hexane, after cooling down the precipitate is filtered off and recrystallized from ethanol to give the title compound in a yield of 75.3%; m.p.: 116°-117.5° C.

reactant | 3-methyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 11.0 g | CN1C(OC2(C1=C)CCNCC2)=O | C9H14N2O2
reactant | 3-(2-trifluoromethyl-10H-phenothiazin-10-yl)propyl chloride | 41.3 g | FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCCl)(F)F | C16H13ClF3NS
reactant | potassium carbonate | 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.6 g | [I-].[K+]
solvent | methyl isobutyl ketone | 110 ml | C(C(C)C)C(=O)C | C6H12O
product | 3-methyl-4-methylene-2-oxo-8-[3-(2-trifluoromethyl-10H-phenothiazin-10-yl)propyl]-1-oxa-3,8-diazaspiro[4,5]decane | yield of 75.3% | CN1C(OC2(C1=C)CCN(CC2)CCCN2C1=CC=CC=C1SC=1C=CC(=CC21)C(F)(F)F)=O | C25H26F3N3O2S
